US04251454
A suspension of 2.4 g. of sodium hydride (50% suspension in oil) and 7.05 g. of dimethylsulfone in 17.5 ml. of dimethylsulfoxide was stirred with the exclusion of moisture for 2 hours at 50° C. 6.9 G. of methyl 4-tert. butyl-3,5-bis(dimethylamino)benzoate were then added, and the mixture was stirred at room temperature for 1.5 hours. The solution was diluted with 150 ml. of ice water, the precipitated solid material filtered off, washed with water and recrystallized from methanol, there being obtained 4'-tert. butyl-3',5'-bis(dimethylamino)-2-methylsulfonylacetophenone having a melting point of 177°-179° C.

reactant | sodium hydride | [H-].[Na+]
reactant | dimethylsulfone | CS(=O)(=O)C | C2H6O2S
reactant | methyl 4-tert. butyl-3,5-bis(dimethylamino)benzoate | C(C)(C)(C)C1=C(C=C(C(=O)OC)C=C1N(C)C)N(C)C | C16H26N2O2
solvent | dimethylsulfoxide | CS(=O)C | C2H6OS
product | 4'-tert. butyl-3',5'-bis(dimethylamino)-2-methylsulfonylacetophenone | C(C)(C)(C)C1=C(C=C(C=C1N(C)C)C(CS(=O)(=O)C)=O)N(C)C | C17H28N2O3S
